US07220856B2
7-Chloro-4-[4-(4-fluorophenylaminothiocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (0.20 g, 0.8 mmol) and 4-fluorophenyl isothiocyanate (0.14 g, 0.9 mmol) in THF (10 mL) are reacted according to method C yielding the title product as a solid after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.8 mmol, 0.20 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 4-fluorophenyl isothiocyanate | 0.9 mmol, 0.14 g | FC1=CC=C(C=C1)N=C=S | C7H4FNS
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Chloro-4-[4-(4-fluorophenylaminothiocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=S)NC1=CC=C(C=C1)F | C20H18ClFN4S
